US03956374
4-(3,4-Dichlorobenzyl)-4-phenyl-5-oxo-7-(p-chlorophenyl)-6-heptenoic Acid
p-Chlorobenzaldehyde (3.5 g., 0.025 mole) in ethanol (10 ml.) is added to a solution of 4-(3,4-dichlorobenzyl)-4-phenyl-5-oxohexanoic acid (5.48 g., 0.015 mole) and sodium hydroxide (0.80 g., 0.02 mole) in water (50 ml.). The resulting mixture is heated on a steam bath for 24 hours. Then the reaction solution is cooled to room temperature, diluted with water (250 ml.), and extracted with ether to remove the excess p-chlorobenzaldehyde. The aqueous phase is then acidified with dilute hydrochloric acid (15 ml.). The organic material which separates is extracted into ether, washed with saturated brine, and dried over Na2SO4. The ether is removed in vacuo, and trituration of the residue with ethanol (25 ml.) produces 1.6 g. of solid. Recrystallization from butyl chloride gives material with m.p. 155°-156.5°C.

reactant | p-Chlorobenzaldehyde | 0.025 mole, 3.5 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 4-(3,4-dichlorobenzyl)-4-phenyl-5-oxohexanoic acid | 0.015 mole, 5.48 g | ClC=1C=C(CC(CCC(=O)O)(C(C)=O)C2=CC=CC=C2)C=CC1Cl | C19H18Cl2O3
reactant | sodium hydroxide | 0.02 mole, 0.80 g | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
solvent | water | 250 ml | O | H2O
product | 4-(3,4-Dichlorobenzyl)-4-phenyl-5-oxo-7-(p-chlorophenyl)-6-heptenoic Acid | ClC=1C=C(CC(CCC(=O)O)(C(C=CC2=CC=C(C=C2)Cl)=O)C2=CC=CC=C2)C=CC1Cl | C26H21Cl3O3
